data/mechanism_extracts/JACS/10.1021_jacs.3c12894.json
{"doi": "10.1021_jacs.3c12894", "journal": "JACS", "is_review": false, "rxn_class_summary": "photoredox-catalyzed dearomative [2π+2σ] cycloaddition of phenols with bicyclo[1.1.0]butanes to give bicyclo[2.1.1]hexane-fused cyclic enones", "mechanism_family": ["photoredox_combined", "radical_cation", "radical_polar_crossover"], "electrochemical_role": null, "key_intermediates": [{"name": "excited acridinium photocatalyst [PC1]*", "smiles": null, "role": "reactive"}, {"name": "BCB-derived radical cation (I)", "smiles": null, "role": "transient"}, {"name": "phenoxyl radical from phenol oxidation (II)", "smiles": null, "role": "transient"}, {"name": "benzylic/ring-opened radical intermediate III (common to both paths)", "smiles": null, "role": "reactive"}, {"name": "α-carbonyl radical IV after 5-exo-trig cyclization", "smiles": null, "role": "reactive"}, {"name": "reduced photocatalyst [PC1]•−", "smiles": null, "role": "transient"}], "electron_flow": "Visible-light-excited acridinium [PC1]* is reductively quenched by either the BCB (Path A, oxidation to radical cation I) or the phenol (Path B, oxidation to phenoxyl radical II); both pathways converge via Friedel–Crafts-type strain-release C–C bond formation to a common benzylic radical III, which undergoes 5-exo-trig cyclization to α-carbonyl radical IV, finally reduced by [PC1]•− to regenerate the photocatalyst and close the cycle.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "product 3a obtained in <5% yield, indicating involvement of radical intermediates"}], "evidence_types_used": ["UV_vis", "cyclic_voltammetry", "intermediate_trap_TEMPO", "other"], "evidence_strength": "medium", "notes": "Two mechanistic pathways are proposed and both are considered operative: Path A (oxidation of BCB 2a, E1/2 = 1.66 V vs SCE, thermodynamically slightly favored) and Path B (oxidation of phenol 1a, E1/2 = 1.70 V vs SCE, kinetically favored due to excess phenol). Stern–Volmer quenching shows BCB quenches [PC1]* ~1.4× more efficiently than phenol. Quantum yield Φ = 0.19 supports a closed catalytic (non-chain) cycle. UV–vis confirms PC1 is the only species absorbing at 450 nm, excluding direct substrate excitation."}
